US07112610B2
To a mixture of 2,2,6-Trimethyl-heptanal (1.05 g, 6.73 mmol), piperidine (0.19 mL, 2.01 mmol) and benzyl cyanoacetate (1.29 g, 7.4 mmol) in toluene (50 mL) was added glacial acetic acid (0.72 g, 12.1 mmol). The flask was fitted with a Dean-Stark trap, and the mixture was heated at reflux for 18. The mixture was cooled, treated with dilute HCl, and the layers were separated. The organics were washed with a saturated sodium bicarbonate solution followed by brine, and dried (MgSO4), filtered and concentrated. The residual oil was purified by silica gel chromatography (98/2 hexane/EtOAc) to give 1.3 g of 2-Cyano-4,4,8-trimethyl-non-2-enoic acid benzyl ester m/z 314 (M+).

reactant | 2,2,6-Trimethyl-heptanal | 6.73 mmol, 1.05 g | CC(C=O)(CCCC(C)C)C | C10H20O
reactant | piperidine | 2.01 mmol, 0.19 mL | N1CCCCC1 | C5H11N
reactant | benzyl cyanoacetate | 7.4 mmol, 1.29 g | C(#N)CC(=O)OCC1=CC=CC=C1 | C10H9NO2
reactant | acetic acid | 12.1 mmol, 0.72 g | C(C)(=O)O | C2H4O2
reactant | HCl | Cl | ClH
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyano-4,4,8-trimethyl-non-2-enoic acid benzyl ester | 1.3 g | C(C1=CC=CC=C1)OC(C(=CC(CCCC(C)C)(C)C)C#N)=O | C20H27NO2
